US05733912
18d. 7a-(6-fluoro-5-methyl-3-pyridinyl)-hexahydro-1H-pyrrolizine
2-Fluoro-5-iodo-3-methylpyridine (200 mg, 0.84 mmol) was dissolved in Et2O and cooled to -95° C. A solution of 2.5M t-BuLi (1.7M in pentane, 1.1 mL, 1.80 mmol) in pentane was added dropwise. 1,2,3,5,6,7-hexahydropyrrolizinium perchlorate (265 mg, 1.26 mmol) was added, and the reaction mixture was allowed to warm to -10° C. with stirring for 2 hours. The cold bath was removed, 2N HCl was added, and the phases were separated. The aqueous phase was basified with 15% NaOH and extracted with CH2Cl2 (2×). The CH2Cl2 fractions were combined, dried (MgSO4) and concentrated, and the residue was chromatographed (silica gel; CHCl3 /MeOH, 99:1) to afford the title compound as an oil (123 mg, 67%) 1H NMR (CDCl3, 300 MHz) δ1.55-1.71 (m, 2H), 1.78-2.04 (m, 6H), 2.26 (s, 3H), 2.64-2.72 (m, 2H), 3.11-3.18 (m, 2H), 7.70 (m, 1H), 8.09 (m, 1H); MS (CI/NH3) m/z: 221 (M+H)+.

reactant | 2-Fluoro-5-iodo-3-methylpyridine | 0.84 mmol, 200 mg | FC1=NC=C(C=C1C)I | C6H5FIN
reactant | t-BuLi | 1.80 mmol, 2.5M, 1.1 mL | [Li]C(C)(C)C
reactant | 1,2,3,5,6,7-hexahydropyrrolizinium perchlorate | 1.26 mmol, 265 mg | Cl(=O)(=O)(=O)[O-].C1CC[N+]=2CCCC12
solvent | Et2O | CCOCC | C4H10O
solvent | pentane | CCCCC | C5H12
product | 7a-(6-fluoro-5-methyl-3-pyridinyl)-hexahydro-1H-pyrrolizine | 123 mg, 67% | FC1=C(C=C(C=N1)C12CCCN2CCC1)C | C13H17FN2
